US06005103
3-[l-(Cyclohexylthio)-3-methylbutyl]-4-hydroxy-6-phenyl-2H-pyran-2-one (±)
The title compound was prepared by Method C using 4-hydroxy-6 -phenyl-2H-pyran-2-one (1.5 g, 7.98 mmol), isovaleraldehyde (076 g, 8.78 mmol), cyclohexylmercaptan (2.04 g, 17.56 mmol), piperidine, (1.0 mL), acetic acid (1.0 mL) and ethanol (20 mL).m.p. 210-212° C.; 1H NMR (400 MHz, DMSO-d6) δ0.89 (t, 6 H), 1.36 (m, 6 H), 1.44 (m, 1 H), 1.56 (m, 2 H), 1.69 (m, 2 H), 1.81 (m, 1 H), 2.08 (m, 2 H), 2.61 (brm, 1 H), 4.22 (m, 1 H), 6.67 (s, 1 H), 7.53 (m, 3 H), 7.78 (m, 2 H); IR (KBr) 3106, 2928, 2851, 1659, 1568, 1404, 1125, 766, 569 cm-1 ; MS (CI) m/e 259 (50), 257 (49), 201 (46), 189 (16), 147 (8), 105 (28), 83 (100).

reactant | 4-hydroxy-6 -phenyl-2H-pyran-2-one | 7.98 mmol, 1.5 g | OC1=CC(OC(=C1)C1=CC=CC=C1)=O | C11H8O3
reactant | isovaleraldehyde | 8.78 mmol | C(CC(C)C)=O | C5H10O
reactant | cyclohexylmercaptan | 17.56 mmol, 2.04 g | C1(CCCCC1)S | C6H12S
reactant | piperidine | 1.0 mL | N1CCCCC1 | C5H11N
reactant | KBr | [K+].[Br-]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | 3-[l-(Cyclohexylthio)-3-methylbutyl]-4-hydroxy-6-phenyl-2H-pyran-2-one | C1(CCCCC1)SC(CC(C)C)C=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H28O3S
